US05332741
The procedure of Step A of Example 1 is followed, starting from 1.72 g (10.34 mmol) of thiochromanol and 7.653 g (82.72 mmol) of epichlorohydrin. 1.5 g (6.721 mmol) of 2,3-epoxypropoxythiochroman are obtained.

reactant | thiochromanol | 10.34 mmol, 1.72 g | S1C(CCC2=CC=CC=C12)O | C9H10OS
reactant | epichlorohydrin | 82.72 mmol, 7.653 g | C(Cl)C1CO1 | C3H5ClO
product | 2,3-epoxypropoxythiochroman | 6.721 mmol, 1.5 g, Yield: 65% | O1C(COC2SC3=CC=CC=C3CC2)C1 | C12H14O2S
